US05629293
c) Methyl(S)-2-amino-6-azidohexanoate
1-Azido-4-[(2R,5S)-3,6-dimethoxy-2-isopropyl-2,5-dihydro-5-pyrazinyl]butane (2.17 g, 7.72 mmol) was dissolved in 30 ml dioxane and a solution of 1.28 ml conc. HCl in 30 ml water (15.45 mmol) was added dropwise, the mixture stirred under argon at ambient temperature overnight. Ammonia solution was added until pH 9 was reached, the solution extracted with chloroform, dried (MgSO4), and the valine methyl ester was removed by bulb-to-bulb distillation (0.05 torr, 25° C.).

reactant | 1-Azido-4-[(2R,5S)-3,6-dimethoxy-2-isopropyl-2,5-dihydro-5-pyrazinyl]butane | 7.72 mmol, 2.17 g | N(=[N+]=[N-])CCCC[C@@H]1N=C([C@H](N=C1OC)C(C)C)OC | C13H23N5O2
reactant | HCl | 1.28 ml | Cl | ClH
reactant | water | 15.45 mmol, 30 ml | O | H2O
reactant | Ammonia | N | H3N
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | Methyl(S)-2-amino-6-azidohexanoate | N[C@H](C(=O)OC)CCCCN=[N+]=[N-] | C7H14N4O2
